* NGSPICE file created from ip_row_mux.ext - technology: gf180mcuD

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__buf_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__buf_1 I Z VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__fill_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__fill_1 VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__endcap abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__endcap VDD VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__clkinv_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__clkinv_1 I ZN VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__nor4_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__nor4_1 A1 A2 A3 A4 ZN VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__filltie abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__filltie VDD VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__nor3_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__nor3_1 A1 A2 A3 ZN VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__fill_2 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__fill_2 VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__fillcap_4 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__fillcap_4 VDD VNW VPW VSS
.ends

* Black-box entry subcircuit for gf180mcu_fd_sc_mcu7t5v0__nand2_1 abstract view
.subckt gf180mcu_fd_sc_mcu7t5v0__nand2_1 A1 A2 ZN VDD VNW VPW VSS
.ends

.subckt ip_row_mux A[0] A[1] A[2] A[3] VDD VSS Y[0] Y[10] Y[11] Y[1] Y[2] Y[3] Y[4]
+ Y[5] Y[6] Y[7] Y[8] Y[9]
Xoutput7 _21_/ZN Y[11] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
Xoutput8 _10_/ZN Y[1] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
Xoutput10 _13_/ZN Y[3] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
Xoutput9 _11_/ZN Y[2] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
Xoutput11 _14_/ZN Y[4] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
Xoutput12 _15_/ZN Y[5] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
Xoutput13 _16_/ZN Y[6] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
XFILLER_1_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
Xoutput14 _17_/ZN Y[7] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
XPHY_EDGE_ROW_0_Left_4 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
Xoutput15 _18_/ZN Y[8] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
X_08_ _08_/I _21_/A2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkinv_1
XPHY_EDGE_ROW_1_Right_1 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
X_09_ _05_/I _06_/I _07_/I _08_/I _09_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor4_1
X_07_ _07_/I _17_/A1 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkinv_1
Xoutput16 _19_/ZN Y[9] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
X_06_ _06_/I _19_/A2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkinv_1
XTAP_TAPCELL_ROW_3_10 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
X_05_ _05_/I _20_/A1 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__clkinv_1
X_21_ _07_/I _21_/A2 _21_/A3 _21_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor3_1
Xinput1 A[0] _06_/I VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
X_20_ _20_/A1 _06_/I _07_/I _21_/A2 _20_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor4_1
Xinput2 A[1] _05_/I VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
XPHY_EDGE_ROW_1_Left_5 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
Xinput3 A[2] _07_/I VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
Xinput4 A[3] _08_/I VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
XPHY_EDGE_ROW_0_Right_0 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_1_39 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_2_60 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XTAP_TAPCELL_ROW_2_9 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
XFILLER_2_41 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XPHY_EDGE_ROW_2_Left_6 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XTAP_TAPCELL_ROW_0_8 VDD VSS gf180mcu_fd_sc_mcu7t5v0__filltie
X_19_ _05_/I _19_/A2 _07_/I _21_/A2 _19_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor4_1
X_18_ _05_/I _06_/I _07_/I _21_/A2 _18_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor4_1
XFILLER_0_2 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
X_17_ _17_/A1 _08_/I _21_/A3 _17_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor3_1
XPHY_EDGE_ROW_3_Right_3 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
X_16_ _20_/A1 _06_/I _17_/A1 _08_/I _16_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor4_1
XFILLER_0_4 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
X_15_ _05_/I _19_/A2 _17_/A1 _08_/I _15_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor4_1
XPHY_EDGE_ROW_3_Left_7 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
X_14_ _05_/I _06_/I _17_/A1 _08_/I _14_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor4_1
XFILLER_3_50 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fillcap_4
X_13_ _07_/I _08_/I _21_/A3 _13_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor3_1
X_12_ _05_/I _06_/I _21_/A3 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nand2_1
X_11_ _20_/A1 _06_/I _07_/I _08_/I _11_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor4_1
X_10_ _05_/I _19_/A2 _07_/I _08_/I _10_/ZN VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__nor4_1
XFILLER_0_64 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_0_31 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_3_42 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XFILLER_3_54 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_3_32 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_2
XPHY_EDGE_ROW_2_Right_2 VDD VSS gf180mcu_fd_sc_mcu7t5v0__endcap
XFILLER_0_66 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
XFILLER_0_33 VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__fill_1
Xoutput5 _09_/ZN Y[0] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
Xoutput6 _20_/ZN Y[10] VDD VDD VSS VSS gf180mcu_fd_sc_mcu7t5v0__buf_1
.ends

